US08389523B2
4.4 g (15 mmol) of 4-(4-methoxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylic acid was dissolved in dichloromethane (100 mL), and to this solution, N,N-dimethylformamide (0.5 mL) and 3.8 g (30 mmol) of oxalyl chloride were added sequentially. The mixture was heated to reflux for one hour while stirring. After confirming the completion of the reaction, the reaction solution was cooled to room temperature, and the solvent was distilled off under reduced pressure. The residue thus obtained was dissolved in dichloromethane (30 mL), and this solution was added dropwise at 0° C. over 5 minutes to a solution prepared by dissolving 1.8 g (16 mmol) of 1,3-cyclohexanedione and 1.8 g (18 mmol) of triethylamine in dichloromethane (30 mL). The reaction solution was returned to room temperature and stirred for 3 hours, and then acetone cyanohydrin (1 mL) and 1.8 g (18 mmol) of triethylamine were further added thereto. The mixture was stirred for 12 hours at room temperature. After confirming the completion of the reaction, water (20 mL) was added to the reaction solution, the reaction solution was adjusted to pH 12 using a 10% aqueous solution of sodium hydroxide, and the reaction solution was separated. The aqueous layer was adjusted to pH 1 by adding 6 N hydrochloric acid, and then the aqueous layer was extracted with dichloromethane. The obtained organic layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue thus obtained was washed with methanol, to obtain 4.5 g (yield: 78%) of 2-(2-hydroxy-6-oxo-1-cyclohexenecarbonyl)-4-(4-methoxyphenyl)-pyrido[2,3-b]pyrazin-3 (4H)-one.

reactant | 4-(4-methoxyphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylic acid | 15 mmol, 4.4 g | COC1=CC=C(C=C1)N1C2=C(N=C(C1=O)C(=O)O)C=CC=N2 | C15H11N3O4
reactant | oxalyl chloride | 30 mmol, 3.8 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1,3-cyclohexanedione | 16 mmol, 1.8 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | triethylamine | 18 mmol, 1.8 g | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 1 mL | CC(C#N)(O)C | C4H7NO
reactant | triethylamine | 18 mmol, 1.8 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | 20 mL | O | H2O
solvent | N,N-dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 2-(2-hydroxy-6-oxo-1-cyclohexenecarbonyl)-4-(4-methoxyphenyl)-pyrido[2,3-b]pyrazin-3 (4H)-one | 4.5 g, yield: 78% | OC1=C(C(CCC1)=O)C(=O)C1=NC2=C(N(C1=O)C1=CC=C(C=C1)OC)N=CC=C2 | C21H17N3O5
